US05108990
STEP A: Diethyl-2-formamido-(-2-methyl-2-propenyl)-propanedioate
A solution of 30 g of ethyl formamido-malonate in 300 ml of acetonitrile was added to a mixture of 40 g of potassium carbonate, 0.380 g of 18 crown 6 ether catalyst and 39.9 g of chloromethylpropane and the mixture was refluxed for 3 hours and then filtered. The filtrate was dried and cooled to 0° to 5° C. The precipitate was taken up in isopropyl ether and filtered. The product was washed with isopropyl ether and was dried under reduced pressure to obtain 25.2 g of the desired product melting at 72° C.

reactant | ethyl formamido-malonate | 30 g | C(=O)NC(C(=O)OCC)C(=O)[O-]
reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethylpropane | 39.9 g | ClCCCC | C4H9Cl
reactant | acetonitrile | 300 ml | C(C)#N | C2H3N
catalyst | ether | CCOCC | C4H10O
product | Diethyl-2-formamido-(-2-methyl-2-propenyl)-propanedioate | 25.2 g | C(C)OC(C(C(=O)OCC)(NC=O)CC(=C)C)=O | C12H19NO5
